US04810792
1-N-Ethoxycarbonyl-4-(2-amino-4-fluorophenoxy)-4-ethynylpiperidine
To a stirred solution of 22.3 g of 1-ethoxycarbonyl-4-ethynyl-4-(4-fluoro-2-nitrophenoxy)piperidine in 535 methanol was added 37 ml of concentrated hydrochloric acid in 150 ml of water. To the stirred mixture was added 78.6 g of iron (reduced, electrolytic) in aliquots. The reaction temperature rose to 45°. The reaction mixture cooled to ambient temperature over 1.5 hr. The mixture was poured into water/ice/sodium carbonate solution, extracted with dichloromethane, washed with water and saturated sodium chloride solution and dried over anhydrous potassium carbonate. Filtration followed by evaporation of solvent provided 20.2 g of an oil. An aliquot of 10.0 g of the oil was dissolved in ether and filtered through 200 g of alumina and the filtrate was evaporated. The residue was dissolved in 10% methanol/dichloromethane, filtered through 200 g of silica gel, and the filtrate was evaporated to provide 8.6 g (84.7%) of product, as an oil.

reactant | 1-ethoxycarbonyl-4-ethynyl-4-(4-fluoro-2-nitrophenoxy)piperidine | 22.3 g | C(C)OC(=O)N1CCC(CC1)(OC1=C(C=C(C=C1)F)[N+](=O)[O-])C#C | C16H17FN2O5
reactant | methanol | CO | CH4O
reactant | hydrochloric acid | 37 ml | Cl | ClH
solvent | water | 150 ml | O | H2O
catalyst | iron | 78.6 g | [Fe] | Fe
product | 1-N-Ethoxycarbonyl-4-(2-amino-4-fluorophenoxy)-4-ethynylpiperidine | 20.2 g | C(C)OC(=O)N1CCC(CC1)(C#C)OC1=C(C=C(C=C1)F)N | C16H19FN2O3
